US03931407
b. 2-(t-Butyl)-3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydrobenz[e]indole ##SPC78##
A mixture of 15.2 g. (0.062 mole) of 1-(3,3-dimethyl-2-oxobutyl)-2-tetralone, 9.5 g. (0.062 mole) of 5-aminosalicylic acid, and 50 ml. of glacial acetic acid was heated under reflux under nitrogen for 1.5 hours, cooled and filtered. The collected solid was washed with acetic acid and petroleum ether and then recrystallized from acetonitrile to provide 10.4 g. (46%) of off-white crystals, m.p. 258°-260°.

reactant | 1-(3,3-dimethyl-2-oxobutyl)-2-tetralone | 0.062 mole | CC(C(CC1C(CCC2=CC=CC=C12)=O)=O)(C)C | C16H20O2
reactant | 5-aminosalicylic acid | 0.062 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(t-Butyl)-3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydrobenz[e]indole | C(C)(C)(C)C=1N(C=2CCC3=C(C2C1)C=CC=C3)C3=CC(=C(C=C3)O)C(=O)O | C23H23NO3
